US04868301
Ethyl-3-bromomethyl-4-oxo-3-H-phthalazin-1-ylacetate
A solution of ethyl-3-hydroxymethyl-4-oxo-3-H-phthalazin-1-ylacetate (13.1 g), phosphorous tribromide (13.5 g) and anhydrous ether (250 ml) was stirred overnight at room temperature. It was then poured onto water (200 ml). The organic layer was collected, washed again with water (3×100 ml) and then dried over anhydrous sodium sulfate. The dried organic extract was evaporated to dryness and the resulting crude solid was purified by chromatography on silica gel, eluting with 95% CH2Cl2- 5% ethyl acetate (percents by volume) to obtain the title compound (yield: 9.8 g; m.p. 96° C.).

reactant | ethyl-3-hydroxymethyl-4-oxo-3-H-phthalazin-1-ylacetate | 13.1 g | C(C)OC(CC1=NN(C(C2=CC=CC=C12)=O)CO)=O | C13H14N2O4
reactant | phosphorous tribromide | 13.5 g | P(Br)(Br)Br | Br3P
solvent | ether | 250 ml | CCOCC | C4H10O
product | Ethyl-3-bromomethyl-4-oxo-3-H-phthalazin-1-ylacetate | yield: 9.8 g | C(C)OC(CC1=NN(C(C2=CC=CC=C12)=O)CBr)=O | C13H13BrN2O3
